US05384318
(-)-Cis-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]-N-(phenylsulfonyl)benzamide
Synthesis was carried out as in example 1, but using 4.4 grams benzene sulfonamide instead of methane sulfonamide, and using 2.4 grams optically pure (-) cis-4-nitrophenyl-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]benzoate and 628 milligrams sodium hydride. There was obtained 1.02 grams of product, m.p. 161°-162° C. αD =-30° ; c =0.005 in tetrahydrofuran.

reactant | benzene sulfonamide | 4.4 grams | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | (-) cis-4-nitrophenyl-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]benzoate | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C(=O)[O-])C=CC=C1C[C@@H]1COC2=C([C@@H]1O)C=C(C=C2)OCC=2SC1=C(N2)C=C(C=C1)F
reactant | sodium hydride | 628 milligrams | [H-].[Na+]
product | (-)-Cis-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]-N-(phenylsulfonyl)benzamide | 1.02 grams | FC=1C=CC2=C(N=C(S2)COC=2C=CC3=C([C@@H]([C@@H](CO3)CC=3C=C(C(=O)NS(=O)(=O)C4=CC=CC=C4)C=CC3)O)C2)C1 | C31H25FN2O6S2
